US07923450B2
b) [4-(4-Methyl-imidazol-1-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine
A suspension of [4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (29.2 mg, 0.13 mmol) and of 2-bromo-6-phenyl-cyclohexanone (65.5 mg, 0.26 mmol) in ethanol (2 mL) was stirred at room temperature for 30 minutes and then heated for two days to reflux under an atmosphere of nitrogen. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified on silica gel using dichloromethane then dichloromethane/methanol (19:1 v/v) as eluent to yield the title compound (50 mg, 100%) as an colourless oil. MS ISP (m/e): 387.4 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.12 (s, 1H), 7.95 (s, 1H), 7.52 (d, 2H), 7.39 (d, 2H), 7.29 (m, 3H), 7.11-7.20 (m, 3H), 4.02 (m, 1H), 2.71 (m, 2H), 2.13 (s, 3H), 2.12 (m, 1H), 1.70-1.94 (m, 3H).

reactant | [4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.13 mmol, 29.2 mg | CC=1N=CN(C1)C1=CC=C(C=C1)NC(=S)N | C11H12N4S
reactant | 2-bromo-6-phenyl-cyclohexanone | 0.26 mmol, 65.5 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | [4-(4-Methyl-imidazol-1-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine | 50 mg, 100% | CC=1N=CN(C1)C1=CC=C(C=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C23H22N4S
